US04188324
A mixture of AT-125 (178 mg; 1 mmole), 9 fluorenylmethylchloroformate (285 mg, 1.1 mmole), and potassium bicarbonate (370 mg; 3.7 mmole) in 5 ml of water was stirred for 20 hours at room temperature. The gelatinous mixture is acidified to pH 2 with hydrochloric acid, evaporated to dryness under reduced pressure, and extracted with acetone. The acetone extracts are adsorbed onto silica gel and chromatographed on 40 g of silica gel with methylene chloride:isopropanol:acetic acid (100:3:1). Fractions of 20 ml are collected and monitored by TLC (U.S. visualization). The first 8 fractions contain component derived from the chloroformate reagent only including 9 fluorenylmethyl alcohol. Fractions 11-17 contain 206 mg of chromatographically homogeneous 3-chloro-α-[[(9H-fluoren-9-ylmethoxy)carbonyl]amino]-4,5-dihydro-5-isoxazoleacetic acid, and fractions 21-50 contain 132 mg of chromatographically homogeneous 3-chloro-α-[[(3-chloro-4,5-dihydro-5-isoxazolyl)[[(9H-fluoren-9-ylmethoxy)carbonyl]amino]acetyl]amino]-4,5-dihydro-5-isoxazolacetic acid. Crystallization of fractions 11-17 from aqueous methanol and recrystallization from acetone-cyclohexane yields 3-chloro-α-[[ (9H-fluoren-9-ylmethoxy)carbonyl]amino]-4,5-dihydro-5-isoxazoleacetic acid m.p. 175°-176°.

reactant | AT-125 | 1 mmole, 178 mg | C1[C@H](ON=C1Cl)[C@@H](C(=O)O)N | C5H7ClN2O3
reactant | fluorenylmethylchloroformate | 1.1 mmole, 285 mg | C1(=CC=CC=2C3=CC=CC=C3CC12)COC(=O)Cl | C15H11ClO2
reactant | potassium bicarbonate | 3.7 mmole, 370 mg | C([O-])(O)=O.[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | water | 5 ml | O | H2O
product | 3-chloro-α-[[ (9H-fluoren-9-ylmethoxy)carbonyl]amino]-4,5-dihydro-5-isoxazoleacetic acid | ClC1=NOC(C1)C(C(=O)O)NC(=O)OCC1C2=CC=CC=C2C=2C=CC=CC12 | C20H17ClN2O5
